* Test: BJT amplifier
* Tests NPN BJT with DC operating point analysis
Vcc collector 0 DC 10
Vb base 0 DC 0.7
Rc collector 0 1k
Re emitter 0 100
Q1 collector base emitter Q2N2222

.MODEL Q2N2222 NPN(IS=1e-14 BF=100 NF=1.0)

.OP
.END
