Diode Clipper Circuit
* Diode clipper/limiter test
V1 in 0 DC 0 AC 1 SIN(0 5 1k)
R1 in out 1k
D1 out 0 D1N4148
.model D1N4148 D(IS=2.52n N=1.752 RS=0.568 CJO=4p VJ=0.75 M=0.4 TT=12n)

* Analysis
.op
.tran 1u 5m

.end
