* Test: Fourier analysis
* Tests .FOUR command for harmonic distortion analysis
V1 in 0 SIN(2.5 2.5 1k)
R1 in out 1k
D1 out 0 D1N4148

.MODEL D1N4148 D(IS=2.52n N=1.752)

.TRAN 1u 5m
.FOUR 1k V(out) 9
.END
