* Test: Initial conditions
* Tests .IC command and UIC flag for transient analysis
V1 in 0 DC 5
R1 in out 1k
C1 out 0 1u

.IC V(out)=2.5

.TRAN 10u 5m UIC
.END
