* Test: MOSFET amplifier
* Tests NMOS transistor with DC operating point analysis
Vdd drain 0 DC 10
Vg gate 0 DC 2.5
Rd drain 0 1k
Rs source 0 500
M1 drain gate source 0 NMOS1 W=10u L=1u

.MODEL NMOS1 NMOS(KP=100u VTO=0.7 LAMBDA=0.01)

.OP
.END
