* Test: Noise analysis
* Tests .NOISE command for noise spectral density
V1 in 0 DC 5 AC 1
R1 in out 1k
R2 out 0 2k
C1 out 0 100n

.NOISE V(out) V1 DEC 10 10 100k
.END
