* Test: Simulation options
* Tests .OPTIONS command
V1 in 0 DC 10
R1 in out 1k
R2 out 0 1k

.OPTIONS abstol=1e-12 vntol=1e-6 reltol=0.001 maxiter=50

.OP
.END
