* Test: Parametric analysis with .PARAM
* Tests parameter definition and usage
.PARAM Rval=1k Cval=100n

V1 in 0 DC 5
R1 in out {Rval}
C1 out 0 {Cval}

.OP
.TRAN 10u 1m
.END
