* Test: PULSE waveform source
* Tests pulse voltage source with transient analysis
V1 in 0 PULSE(0 5 1m 10u 10u 1m 4m)
R1 in out 1k
C1 out 0 1u

.TRAN 10u 10m
.END
