RC Transient Response
* RC circuit transient response to step input
V1 in 0 PULSE(0 5 0 1u 1u 1m 2m)
R1 in out 1k
C1 out 0 1u

* Analysis
.op
.tran 10u 5m

.end
