* Test: SIN waveform source
* Tests sinusoidal voltage source with transient analysis
V1 in 0 SIN(0 1 1k 0 0 0)
R1 in out 1k
C1 out 0 100n

.TRAN 10u 5m
.END
